US04414213
Ethyl α-Acetyl-3-nitrocinnamate
A reaction mixture containing m-nitrobenzaldehyde (151 g; 1.0 mole), ethyl acetoacetate (130 g; 1.0 mole), piperidine (4 mL) and glacial acetic acid (12 mL) in 200 mL benzene was refluxed for 2.5 hr while removing water (19 mL) by means of a Dean Stark trap. The dark brown reaction solution was allowed to cool to room temperature and was then water washed several times and concentrated in vacuo to give a dark yellow solid. This solid was recrystallized from ethanol to yield 182 g (69% yield) of yellow solid, m.p. 103°-106° C. Literature m.p.: S. Ruhemann, J. Chem. Soc., Vol 83, 717 (1903)--m.p. 110° C.

reactant | m-nitrobenzaldehyde | 1.0 mole, 151 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl acetoacetate | 1.0 mole, 130 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine | 4 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | Ethyl α-Acetyl-3-nitrocinnamate | 182 g, 69% yield | C(C)(=O)C(C(=O)OCC)=CC1=CC(=CC=C1)[N+](=O)[O-] | C13H13NO5
